US07544697B2
Acetyl chloride (19 mL, 273 mmol), acetic acid (30 mL), and ethylhydrazine oxalate (41 g, 272 mmol) were added sequentially to a suspension of methyl 1H-indol-3-yl(oxo)acetate (37 g, 180 mmol) in ethanol (910 mL). The reaction mixture was heated at reflux for 18 hours, cooled to ambient temperature, and concentrated under reduced pressure to a small volume. Dichloromethane (100 mL) and ice were added, and the mixture was adjusted to pH 14 with the addition of 50% w/w sodium hydroxide. A precipitate formed. The dichloromethane was removed under reduced pressure, and the precipitate was isolated by filtration, triturated with hot acetonitrile, and isolated by filtration to provide 26 g of 2-ethyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a tan solid.

reactant | Acetyl chloride | 273 mmol, 19 mL | C(C)(=O)Cl | C2H3ClO
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | ethylhydrazine oxalate | 272 mmol, 41 g | C(C(=O)O)(=O)O.C(C)NN
reactant | methyl 1H-indol-3-yl(oxo)acetate | 180 mmol, 37 g | N1C=C(C2=CC=CC=C12)C(C(=O)OC)=O | C11H9NO3
solvent | ethanol | 910 mL | C(C)O | C2H6O
product | 2-ethyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 26 g | C(C)N1N=C2C(NC=3C=CC=CC3C2=C1)=O | C12H11N3O
